### PR TITLE
[Merged by Bors] - feat: field tactic

### LINKED ISSUE #4837: field tactic
We are missing a `field` tactic that does something like calling `field_simp` (with #4835 incorporated) and then `ring`. It seems Coq has this.

### PR DESCRIPTION
**Pull request by hrmacbeth**
This PR creates a `field` tactic, i.e. an analogue of `ring` but for fields -- a finishing tactic for equality goals in fields.  It is basically `field_simp; ring1`, with a few tweaks for better error reporting!

We could have done this at any point in the last five years, but since `field_simp` is more performant as of #28658, now seems like a good time.

I propose that `field` be preferred to terminal `field_simp`/`field_simp; ring` from now on. I'll follow up with a PR ([preview](https://github.com/leanprover-community/mathlib4/commit/44c0136fb8650f57416733d0b336c60b338f3d99)) making this change widely across the library. In the current PR I also rewrote the docstrings of `field_simp` and friends to nudge users in this direction.

Closes #4837 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #29917

### CODE REVIEW

File: Mathlib/Tactic/Field.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
...
+The `field` tactic is built from the tactics `field_simp` (which clears the denominators) and `ring`
+(which proves equality goals universally true in commutative (semi-)rings). If `field` fails to
+prove your goal, you may still be able to prove your goal by running the `field_simp` and `ring_nf`
+normalizations in some order.  For example, this statement:
+```
+example (a b c d z : ℚ) (H1 : c ≠ 0) (H2 : c * z + d ≠ 0) :
+    (a * z + b) / (c * z + d) - c⁻¹ * (z * c + d)⁻¹
+    = a / c - (c * d + c * c * z)⁻¹ - c⁻¹ * (z * c + d)⁻¹ * (a * d - b * c)
+```
+is not proved by `field` but is proved by `ring_nf at *; field_simp; ring`. -/
```
Comment (grunweg) [inline Mathlib/Tactic/Field.lean]: Does `ring_nf at *; field` prove it?

File: Mathlib/Tactic/Field.lean [hunk 2]
```diff
@@ -0,0 +1,81 @@
...
+  liftMetaTactic1 (transformAtTarget ((AtomM.run .reducible ∘ reduceEq disch) ·) "field"
+    (failIfUnchanged := False) · default)
+  let s1 ← saveState
+  try
+    -- run `ring1`
+    liftMetaFinishingTactic fun g ↦ AtomM.run .reducible <| Ring.proveEq g
+  catch e =>
+    try
+      -- If `field` doesn't solve the goal, we first backtrack to the situation at the time of the
+      -- `field_simp` call, and suggest `field_simp` if `field_simp` does anything useful
```
Comment (grunweg) [inline Mathlib/Tactic/Field.lean]:
```suggestion
      -- `field_simp` call, and suggest `field_simp` if `field_simp` does anything useful.
```

File: Mathlib/Tactic/Field.lean [hunk 3]
```diff
@@ -0,0 +1,81 @@
...
+      s0.restore
+      let tacticStx ← `(tactic| field_simp $(d)? $(args)?)
+      evalTactic tacticStx
+      Meta.Tactic.TryThis.addSuggestion (← getRef) tacticStx
+    catch _ =>
+      -- If `field_simp` also doesn't do anything useful (maybe there are no denominators in the
+      -- goal) then we backtrack to where the `ring1` call failed, and report that error message
```
Comment (grunweg) [inline Mathlib/Tactic/Field.lean]:
```suggestion
      -- goal), we backtrack to where the `ring1` call failed, and report that error message.
```

File: Mathlib/Tactic/FieldSimp.lean [hunk 4]
```diff
@@ -506,7 +506,7 @@ def reduceExpr (disch : ∀ {u : Level} (type : Q(Sort u)), MetaM Q($type)) (x :
 equivalent to `a = b`. -/
 def reduceEq (disch : ∀ {u : Level} (type : Q(Sort u)), MetaM Q($type)) (t : Expr) :
     AtomM Simp.Result := do
-  let some ⟨_, a, b⟩ := t.eq? | throwError "not an equality"
+  let some ⟨_, a, b⟩ := t.cleanupAnnotations.eq? | throwError "not an equality"
```
Comment (grunweg) [inline Mathlib/Tactic/FieldSimp.lean]: Can you add a test covering this? (Yes, I am fond of tests. Sorry.)

File: MathlibTest/FieldSimp.lean [hunk 5]
```diff
@@ -359,30 +359,107 @@ end
...
 example {a b : ℚ} (ha : a ≠ 0) : a / (a * b) - 1 / b = 0 := by field
+
 example {x : ℚ} : x ^ 2 * x⁻¹ = x := by field
 
+-- example from `field` docstring
+example {K : Type*} [Field K] (hK : ∀ x : K, x ^ 2 + 1 ≠ 0) (x : K) :
+    1 / (x ^ 2 + 1) + x ^ 2 / (x ^ 2 + 1) = 1 := by
+  field [hK]
+
+-- `field` will suggest `field_simp` on failure, if `field_simp` does anything
```
Comment (grunweg) [inline MathlibTest/FieldSimp.lean]:
```suggestion
-- `field` will suggest `field_simp` on failure, if `field_simp` does anything.
```

File: MathlibTest/FieldSimp.lean [hunk 6]
```diff
@@ -359,30 +359,107 @@ end
...
+---
+error: unsolved goals
+x y z : ℚ
+hx : x + y ≠ 0
+⊢ 1 = z
+-/
+#guard_msgs in
+example {x y z : ℚ} (hx : x + y ≠ 0) : x / (x + y) + y / (x + y) = z := by field
+
+-- If `field` fails but `field_simp` also fails, we just throw an error
```
Comment (grunweg) [inline MathlibTest/FieldSimp.lean]:
```suggestion
-- If `field` fails but `field_simp` also fails, we just throw an error.
```

File: MathlibTest/FieldSimp.lean [hunk 7]
```diff
@@ -359,30 +359,107 @@ end
...
+/--
+info: Try this: field_simp
+---
+error: unsolved goals
+a b : ℚ
+f : ℚ → ℚ
+⊢ f (a * b) * (1 - 1) = 0
+-/
+#guard_msgs in
+example (a b : ℚ) (f : ℚ → ℚ) : f (a ^ 2 * b / a) - f (b ^ 2 * a / b) = 0 := by field
```
Comment (grunweg) [inline MathlibTest/FieldSimp.lean:450]: While I like this example, I don't think it demonstrates what its doc-string says.

We I read "clear denominators", I don't think of reducing 1 - 1 to 0.
I would have expected a more complex example - do you fancy adding one, or convincing me my reading is clearly wrong?

File: MathlibTest/FieldSimp.lean [hunk 8]
```diff
@@ -359,30 +359,107 @@ end
...
+
+-- (Compare with the example above: this is out of scope for `field`.)
+example (a b : ℚ) (f : ℚ → ℚ) : f (a ^ 2 * b / a) - f (b ^ 2 * a / b) = 0 := by
+  field_simp
+  ring1
+
+-- from `Analysis.Complex.UpperHalfPlane.MoebiusAction`
+-- `field` does not fully clear denominators in this example, but calling different normalizations
+-- in succession eventually succeeds
```
Comment (grunweg) [inline MathlibTest/FieldSimp.lean]:
```suggestion
-- in succession eventually succeeds.
```

File: MathlibTest/FieldSimp.lean [hunk 9]
```diff
@@ -359,30 +359,107 @@ end
...
+-- (This example is used in the `field` docstring.)
+
+example (a b c d z : ℚ) (H1 : c ≠ 0) (H2 : c * z + d ≠ 0) :
+    (a * z + b) / (c * z + d) - c⁻¹ * (z * c + d)⁻¹
+    = a / c - (c * d + c * c * z)⁻¹ - c⁻¹ * (z * c + d)⁻¹ * (a * d - b * c) := by
+  ring_nf at *
+  field_simp
```
Comment (grunweg) [inline MathlibTest/FieldSimp.lean]: Does this work if you put `field_simp; ring` at the end?

**Review by grunweg — COMMENTED** [review]
Looks great! A few minor nits, I'll give this a second reading tomorrow.

File: MathlibTest/FieldSimp.lean [hunk 10]
```diff
@@ -359,30 +359,107 @@ end
...
+
+-- (Compare with the example above: this is out of scope for `field`.)
+example (a b : ℚ) (f : ℚ → ℚ) : f (a ^ 2 * b / a) - f (b ^ 2 * a / b) = 0 := by
+  field_simp
+  ring1
+
+-- from `Analysis.Complex.UpperHalfPlane.MoebiusAction`
+-- `field` does not fully clear denominators in this example, but calling different normalizations
+-- in succession eventually succeeds
+-- (This example is used in the `field` docstring.)
```
Comment (grunweg) [inline MathlibTest/FieldSimp.lean]: The overall paragraph refers to the next examples, but this line only to the next one, right? Can you move the blank line to before this line then?

File: MathlibTest/FieldSimp.lean [hunk 11]
```diff
@@ -428,6 +505,15 @@ example {x y z : ℚ} (h : x * y = x * z) : True := by
   guard_hyp h : x * y = x * z
   exact trivial
 
+-- used in `field_simp` docstring
+example {K : Type*} [Field K] {x : K} (hx : x ^ 5 = 1) (hx0 : x ≠ 0) (hx1 : x - 1 ≠ 0) :
```
Comment (grunweg) [inline MathlibTest/FieldSimp.lean:546]: Add the same test for `simp only [field]`?

**Review by grunweg — COMMENTED** [review]
Can you add at least a basic test for the conv tactic, such as the following from the doc-string?
```
example (x y z : ℚ) (hy : 1 - y ≠ 0) :
    ⌊x / (1 - y) / (1 + y / (1 - y))⌋ < 3 := by
  conv => enter [1, 1]; field_simp
  -- new goal: `⊢ ⌊x / (1 - y + y)⌋ < 3`
```

And this test from the doc-string is also not in the test file yet:
```
example (x y z : ℚ) (hy : 1 - y ≠ 0) :
    ⌊x / (1 - y) / (1 + y / (1 - y))⌋ < 3 := by
  field_simp
  -- new goal: `⊢ ⌊x / (1 - y + y)⌋ < 3`

File: Mathlib/Tactic/Field.lean [hunk 12]
```diff
@@ -0,0 +1,81 @@
...
+    = a / c - (c * d + c * c * z)⁻¹ - c⁻¹ * (z * c + d)⁻¹ * (a * d - b * c)
+```
+is not proved by `field` but is proved by `ring_nf at *; field_simp; ring`. -/
+elab (name := field) "field" d:(discharger)? args:(simpArgs)? : tactic => withMainContext do
+  let disch ← parseDischarger d args
+  let s0 ← saveState
+  -- run `field_simp` (only at the top level, not recursively)
+  liftMetaTactic1 (transformAtTarget ((AtomM.run .reducible ∘ reduceEq disch) ·) "field"
+    (failIfUnchanged := False) · default)
+  let s1 ← saveState
```
Comment (grunweg) [inline Mathlib/Tactic/Field.lean:59]: Just to check: if `field_simp` already succeeds, does this line do anything?

File: Mathlib/Tactic/Field.lean [hunk 13]
```diff
@@ -0,0 +1,81 @@
...
+  try
+    -- run `ring1`
```
Comment (grunweg) [inline Mathlib/Tactic/Field.lean:61]: This only runs on the main goal, right? Can you add that to the comment?
(Can we add a test where a positivity obligation that would be provable by ring is not discharged? I can try to come up with one.)

**Review by grunweg — COMMENTED** [review]
Looks good, with all comments addressed!
My first comment in related to a performance question: are there negative side effects of replacing field_simp by field everything? (It would be good to make sure the answer is generally no or "only a small difference".)

File: Mathlib/Tactic/Field.lean (hunk 1 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Field.lean]: Yes, it does. I just adjusted the wording to clarify this, and I swapped this out for a simpler example with the same features.

File: MathlibTest/FieldSimp.lean (hunk 9 above)
Comment (hrmacbeth) [reply MathlibTest/FieldSimp.lean]: I don't follow here (`field_simp; ring` is already at the end right?). But I also just swapped out this example for some simpler ones.

File: Mathlib/Tactic/Field.lean (hunk 3 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Field.lean]:
```suggestion
      -- goal), then we backtrack to where the `ring1` call failed, and report that error message.
```

File: Mathlib/Tactic/Field.lean (hunk 13 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Field.lean:61]: I'm not sure I follow here: 

> This only runs on the main goal, right?

That's not specific to this use case -- `ring1` always operates only on the main goal!

> Can we add a test where a positivity obligation that would be provable by ring is not discharged?

`ring` does not prove inequalities/disequalities, so I'm not sure what you mean here about discharging positivity obligations?

File: Mathlib/Tactic/Field.lean (hunk 12 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Field.lean:59]: In the `field_simp` tactic, after we run `reduceEq disch` we run a "cleanup" step (basically a `simp only []`) which simplifies `foo = foo` to `True`. Here that cleanup step is missing, so IIUC it will never happen that this step solves the goal.

File: MathlibTest/FieldSimp.lean (hunk 7 above)
Comment (hrmacbeth) [reply MathlibTest/FieldSimp.lean:450]: I was trying to make the point that in this case the denominators-to-be-cleared are in subexpressions, not at the "top level". So this illustrates the edge case where `field_simp; ring` works and `field` doesn't.

LMK if that point isn't coming throught!

Comment (grunweg) [reply MathlibTest/FieldSimp.lean:450]: Ah, I see. I guess there are two things which confuse(d) me:
- I didn't necessarily think of the arguments to f as sub-expressions --- perhaps this can be clarified? (Or is that merely my brain which should clarify? I'm happy to classify this as a bug in my mental model instead.)
- the error message does not match my intuition: the remaining goal has the denominators cancelled. I would have expected something different... where's the disconnect?

File: Mathlib/Tactic/Field.lean (hunk 13 above)
Comment (grunweg) [reply Mathlib/Tactic/Field.lean:61]: You're right --- I forgot to include my particular knowledge of ring... sorry for the noise!

File: Mathlib/Tactic/Field.lean (hunk 12 above)
Comment (grunweg) [reply Mathlib/Tactic/Field.lean:59]: Right. So does that mean `field` will be a bit slower than `field_simp` in case the former already solves the goal, right? Do you think that will be an issue/even felt in practice?
I haven't thought yet how well the normal forms produced by field_simp and ring align.

**Comment by hrmacbeth** [comment]
> Can you add at least a basic test for the conv tactic, such as the following from the doc-string?
> 
> ```
> example (x y z : ℚ) (hy : 1 - y ≠ 0) :
>     ⌊x / (1 - y) / (1 + y / (1 - y))⌋ < 3 := by
>   conv => enter [1, 1]; field_simp
>   -- new goal: `⊢ ⌊x / (1 - y + y)⌋ < 3`
> ```
> 
> And this test from the doc-string is also not in the test file yet:
> 
> ```
> example (x y z : ℚ) (hy : 1 - y ≠ 0) :
>     ⌊x / (1 - y) / (1 + y / (1 - y))⌋ < 3 := by
>   field_simp
>   -- new goal: `⊢ ⌊x / (1 - y + y)⌋ < 3`
> ```

I've added these tests in disguised form (with `P : ℚ → Prop`) so as not add the import `FloorRing`.

File: MathlibTest/FieldSimp.lean (hunk 7 above)
Comment (hrmacbeth) [reply MathlibTest/FieldSimp.lean:450]: > * the error message does not match my intuition: the remaining goal has the denominators cancelled. I would have expected something different... where's the disconnect?

That's because of the choice made currently in the implementation: if `field` fails then `field_simp` gets offered as a suggestion. Since `field_simp` *does* operate on subexpressions, the denominators get cancelled!

I can see how this could be confusing, but hopefully it ends up being a lot like the experience we're used to with `ring`: "Oh huh, `ring` didn't work?  Well, it's suggesting `ring_nf` and that did something useful, let me take that."  What do you think?

**Comment by hrmacbeth** [comment]
> a performance question: are there negative side effects of replacing field_simp by field everything? (It would be good to make sure the answer is generally no or "only a small difference".)

> does that mean `field` will be a bit slower than `field_simp` in case the former already solves the goal, right? Do you think that will be an issue/even felt in practice? I haven't thought yet how well the normal forms produced by field_simp and ring align.

I'm not sure. `field` runs `ring` every time, yes, and that could be a slowdown. On the other hand, it only needs to clear denominators at the top level (not recurse through subexpressions), so that could be a speedup.

File: Mathlib/Tactic/Field.lean (hunk 12 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Field.lean:59]: (Conversation continued below)

File: MathlibTest/FieldSimp.lean (hunk 7 above)
Comment (grunweg) [reply MathlibTest/FieldSimp.lean:450]: An experience "well, that's unexpected but still useful, I'll take it" sounds still good enough.
(I see ways to improve that, such as better diagnostics "help me prove this denominator is non-zero" (a future PR!).
Thinking loud: how difficult is it to check for this case, where there are sub-expressions with non-cancelled denominators? (In that case, field could emit a hint: try field_simp; ring to also clear deminators in sub-expressions", so the user can learn.) If we're only trying this on tactic failure; how bad is running literally `field_simp; ring` and offering this as a suggestion if it works?

Comment (grunweg) [reply MathlibTest/FieldSimp.lean:450]: Thinking about it more, I realised I cannot articulate clearly what a sub-expression is.
In ((a ^ 2 * b / a) ^ 2 + (a ^ 2 * b / a)) / c, is `a ^ 2 * b / a` a sub-expression? What about
`c * (a ^ 2 * b / a)) ^ 2 / (a ^ 2 * b / a)`? Would one of these make for a clearer test?


So, to summarize: field does not clear denominators in sub-expressions,  but field_simp always does: because we're offering field_simp as backup suggestion, we won't ever get user output with denominators, right?
 
 I think that's fine, but then the comment above should be updated to mention that.

**Comment by grunweg** [comment]
Hm. Can we just benchmark it on the adaptation PR, so we have some hard numbers?

**Comment by grunweg** [comment]
(How difficult is it to change that detail in the future? If the answer is not difficult, one option could also be to land the current form and measure again in a month if this makes a difference.)

**Comment by hrmacbeth** [comment]
I split out the documentation part of this PR into #29917.

**Review by grunweg — COMMENTED** [review]
In light of the new test at (now) line 590, what do you think about adding a stronger comment that `field_simp; ring` is not necessarily converging (in one step, or perhaps at all) --- so a mental model "field solves everything" being slightly too optimistic?

**Comment by grunweg** [comment]
I just took a final look again. I think this PR is safe to merge, assuming some comment tweaks/TODOs:
- can you add a comment about the sub-expression question we had above?
- maybe, a (more prominent/visible) comment about successive normalisation by field_simp and ring not necessarily converging, i.e. `field` not always working
- filing a TODO to investigate if always running `ring1` yields a meaningful slow-down: I'm happy to investigate this in the follow-up PR using `field` more.

maintainer delegate

File: Mathlib/Tactic/Field.lean [hunk 14]
```diff
@@ -0,0 +1,79 @@
...
+
+The `field` tactic is built from the tactics `field_simp` (which clears the denominators) and `ring`
+(which proves equality goals universally true in commutative (semi-)rings). If `field` fails to
+prove your goal, you may still be able to prove your goal by running the `field_simp` and `ring_nf`
+normalizations in some order.  For example, this statement:
+```
+example {a b : ℚ} (H : b + a ≠ 0) : a / (a + b) + b / (b + a) = 1
+```
+is not proved by `field` but is proved by `ring_nf at *; field`. -/
+elab (name := field) "field" d:(discharger)? args:(simpArgs)? : tactic => withMainContext do
```
Comment (adomani) [inline Mathlib/Tactic/Field.lean]:
```suggestion
elab (name := field) "field" d:(ppSpace discharger)? args:(ppSpace simpArgs)? : tactic => withMainContext do
```
I think that this will help the pretty-printer.

File: MathlibTest/FieldSimp.lean [hunk 15]
```diff
@@ -392,14 +393,67 @@ example {K : Type*} [Field K] (a b c d x y : K) (hx : x ≠ 0) (hy : y ≠ 0) :
...
+x y z : ℚ
+hx : x + y ≠ 0
+⊢ 1 = z
+-/
+#guard_msgs in
+example {x y z : ℚ} (hx : x + y ≠ 0) : x / (x + y) + y / (x + y) = z := by field
+
+-- If `field` fails but `field_simp` also fails, we just throw an error.
+/--
+error: ring failed, ring expressions not equal
```
Comment (adomani) [inline MathlibTest/FieldSimp.lean:427]: It seems a little weird that a `field` error mentions `ring`.

I understand why this is the case, though maybe it is too much work for too little gain to fix this!

Comment (adomani) [reply MathlibTest/FieldSimp.lean:427]: Maybe an easy way out could be to prepend something like
> `field` calls `ring1` internally and that call reports the following error:
> [insert caught error `e` here]

File: Mathlib/Tactic/Field.lean [hunk 16]
```diff
@@ -0,0 +1,79 @@
...
+  let disch ← parseDischarger d args
+  let s0 ← saveState
+  -- run `field_simp` (only at the top level, not recursively)
+  liftMetaTactic1 (transformAtTarget ((AtomM.run .reducible ∘ reduceProp disch) ·) "field"
+    (failIfUnchanged := False) · default)
```
Comment (Vierkantor) [inline Mathlib/Tactic/Field.lean:58]: Do I understand correctly that `field` will solve all goals that `ring` will?

In that case, we can detect whether `field_simp` changes the goal, and pop up a suggestion `Try this: ring`.

File: MathlibTest/FieldSimp.lean (hunk 15 above)
Comment (Vierkantor) [reply MathlibTest/FieldSimp.lean:427]: I agree with the sentiment, but it seems like a lot of text to read before getting to the relevant message. Is it possible to get something like:
```quote
`field` failed, nested error:
[error message]

Note: `field` calls `ring1` internally after clearing denominators.
```

(Lean core has the convention to add `Note:` to lines that explain why this kind of error occurs, and `Hint:` to lines that suggest ways to fix errors.)

File: Mathlib/Tactic/Field.lean (hunk 16 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Field.lean:58]: > Do I understand correctly that `field` will solve all goals that `ring` will?

Yes, that's right!

> In that case, we can detect whether `field_simp` changes the goal, and pop up a suggestion `Try this: ring`.

But this isn't the right condition to test whether `ring` suffices. There are problems where `field_simp` does something but nonetheless `ring` suffices. For example:

```lean
import Mathlib
example (x : ℝ) (hx : x ≠ 0) : 2 / x = x⁻¹ * 2 + 1 - 1 := by ring -- solves it
example (x : ℝ) (hx : x ≠ 0) : 2 / x = x⁻¹ * 2 + 1 - 1 := by field_simp -- makes progress
```
(you can even drop the `hx`).

The only way to get the "Try this: ring" correct is to run `ring` every time on the original goal, which would be expensive!  Alternative proposal: a linter written using the tactic analysis to downgrade `field`s in Mathlib which could be `ring`s?

**Comment by fpvandoorn** [comment]
bors d+

This is really nice! Not merging it in case you want to still implement @Vierkantor's suggested formulation `` `field` failed, nested error:``

File: Mathlib/Tactic/Field.lean (hunk 16 above)
Comment (grunweg) [reply Mathlib/Tactic/Field.lean:58]: I think such a linter (which hopefully is easy with the new tactic analysis framework) would be a good way forward!

Comment (Vierkantor) [reply Mathlib/Tactic/Field.lean:58]: Agreed! I'll leave this conversation open, as a TODO, but I consider it resolved for the current PR.

**Comment by fpvandoorn** [comment]
Let's get this in. @grunweg will ensure that the small requested fixes will be incorporated in a follow-up PR.

bors merge

**Comment by grunweg** [comment]
#30653 uses the new tactic across mathlib
